US04010189
A mixture of ethyl phenylcarbamate (50 g.) and 1,2-diaminopropane (105 g.) is heated at 125° C. for 17 hours and cooled, and the excess of amine is removed by evaporation under reduced pressure. The residue is dissolved in ethyl acetate and the solution is washed with saturated brine, dried and evaporated to dryness. The residue is triturated with toluene and there is thus obtained as solid residue 1-methyl-2-(3-phenylureido)ethylamine, which is used without further purification.

reactant | ethyl phenylcarbamate | 50 g | C1(=CC=CC=C1)NC(OCC)=O | C9H11NO2
reactant | 1,2-diaminopropane | 105 g | NCC(C)N | C3H10N2
product | 1-methyl-2-(3-phenylureido)ethylamine | CC(CNC(=O)NC1=CC=CC=C1)N | C10H15N3O
